datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:9])[H:8],34.267
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12]([H:13])([H:14])[H:15],47.321
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17][C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:17](=[C:16]([H:19])[H:20])[C:18]([H:21])([H:22])[H:23])[H:8],2.17568
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:17])([H:10])[H:11])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19],16.736
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:11][H:12],-0.14644
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28],40.5848
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9]>>[C:0]([C:1](=[N:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:9],-3.740496
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:5]1.[O:6][H:17],46.8608
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:11])[H:10])([H:8])[H:9],13.849
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:32])[H:33])[H:34])([C:29]([H:35])([H:36])[H:37])[C:30](=[C:31]([H:39])[H:40])[H:38])[H:14])([H:12])[H:13],70.5422
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])([H:7])[H:8],29.2043
[O:0][C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)([H:12])[H:13].[O:21][O:22]>>[H:12][O:21][O:22].[O:0]=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:13],-14.76952
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:19]([H:20])([H:21])[H:22])([H:9])[H:10],40.7103
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([O:17][H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:21])([H:6])([H:7])[H:8].[C:15]([C:16]([O:17][H:23])[H:22])([H:18])([H:19])[H:20],62.76
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][H:7],32.7189
